US05420289
A. 4-Benzyloxyphenylhydrazine hydrochloride
A solution of sodium nitrite (3.8 g, 0.055 mol in 20 mL of H2O), is added dropwise to an ice cold stirring suspension of 4-benzyloxyaniline (13.0 g, 0.055 mol in 150 mL of concentrated HCl). The reaction mixture is stirred for 90 minutes at -8° to 10° C. A solution of SnCl2 ·2H2O (32.0 g, 0142 mol in 50 mL concentrated HCl) is added and stirred for i hour at 0° C. The reaction mixture is removed from the ice bath and is stirred at room temperature for 20 hours. The mixture is then filtered and washed with water to give 13.0 g (95% yield) of product, m.p. 182°-185° C.

reactant | sodium nitrite | 0.055 mol, 20 mL, 3.8 g | N(=O)[O-].[Na+]
reactant | 4-benzyloxyaniline | 0.055 mol, 150 mL, 13.0 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | SnCl2 | Cl[Sn]Cl
solvent | HCl | 50 mL | Cl | ClH
product | 4-Benzyloxyphenylhydrazine hydrochloride | 13.0 g, 95% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN | InChI=1S/C13H14N2O.ClH/c14-15-12-6-8-13(9-7-12)16-10-11-4-2-1-3-5-11;/h1-9,15H,10,14H2;1H
